US06063782
1-Cyclopropylmethyl-2,3-dimethyl-5-(3-phenylpropionyl)pyrrole
The title compound was prepared as an orange oil in 93.0% yield in a similar procedure to that described in Referential Example 97 by using 2,3-dimethyl-5-(3-phenylpropionyl)pyrrole and bromomethylcyclopropane.

reactant | 2,3-dimethyl-5-(3-phenylpropionyl)pyrrole | CC=1NC(=CC1C)C(CCC1=CC=CC=C1)=O | C15H17NO
reactant | bromomethylcyclopropane | BrCC1CC1 | C4H7Br
product | 1-Cyclopropylmethyl-2,3-dimethyl-5-(3-phenylpropionyl)pyrrole | 93.0% yield | C1(CC1)CN1C(=C(C=C1C(CCC1=CC=CC=C1)=O)C)C | C19H23NO
